US07157463B2
7-(Piperazin-1-yl)indole
The Boc protected indole (200 mg, 1.5 mmol) prepared from 7-bromoindole and N-Boc piperazine as described in Step 1 of Preparation 54A is dissolved in DCM (1 mL). TFA (1 mL) is added and the mixture is stirred at r.t. for about an hour. The mixture is then concentrated to oil, which is taken up in methanol and freebased via SCX purification to afford about 164 mg (54%) of the final compound.

reactant | indole | 1.5 mmol, 200 mg | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 7-bromoindole | BrC=1C=CC=C2C=CNC12 | C8H6BrN
reactant | N-Boc piperazine | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 7-(Piperazin-1-yl)indole | about 164 mg, 54% | N1(CCNCC1)C=1C=CC=C2C=CNC12 | C12H15N3
